US04507433
Purine-containing oligonucleoside methylphosphonates may be depurinated by treatment by hydrochloric acid at 65° C. The methylphosphonate linkage is resistant to hydrolysis by these conditions as shown by the stability of d-TpT and d-TpTpT. On the other hand, dimers or trimers containing purine bases such as d-ApA, dApT, dTpA or d-ApApA have half-lives between 92 and 144 min in 0.01 M hydrochloric acid. Following neutralization with ammonium hydroxide, the products of these reactions were characterized by reversed phase HPLC. d-ApA gave adenine, while both d-ApT and d-TpA gave adenine and thymidine as the sole products of the reaction. Adenine and d-ApA were the only products observed when d-ApApA was partially hydrolyzed. When d-CpCpApT was completely hydrolyzed in acid three products, d-CpC, adenine and thymidine, were observed in a molar ratio of 1:1:1.

reactant | Purine | N1=CN=C2N=CNC2=C1 | C5H4N4
reactant | methylphosphonate | CP([O-])([O-])=O
reactant | dApT | C[C@@H](C(=O)N[C@@H](C1=CC=CC=C1)C(=O)OC(C)(C)C)NC(=O)CC2=CC(=CC(=C2)F)F | C23H26F2N2O4
reactant | dTpA | C(CN(CC(=O)[O-])CC(=O)[O-])N(CCN(CC(=O)[O-])CC(=O)[O-])CC(=O)[O-]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 0.01 M | Cl | ClH
product | adenine | N1=CN=C2N=CNC2=C1N | C5H5N5
